US07592463B2
Benzyl (1S, 6R)-6-propionylcyclohex-2-en-1-ylcarbamate (Table 3, Entry 2):
Concentrated (70% aqueous) perchloric acid (431 μL, 5.0 mmol) was added slowly to a stirring solution of ethyl vinyl ketone (2.49 mL, 25.0 mmol) and (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one (1.35 g, 5.0 mmol) pre-chilled to −30° C. Then, buta-1,3-dienyl-carbamic acid benzyl ester (4.47g, 31.3 mmol) was added dropwise over 15 minutes as a solution in 12.5 mL of absolute ethanol. After stirring for 3.5 days, the reaction was diluted with ether (150 mL), washed successively with 1N HCl (50 mL), water (50 mL) and brine (25 mL). The organic layer was then dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford a pale brown oil. Purification by silica gel (8:1 hexanes:ethyl acetate) afforded the title compound as a single diastereomer (as judged by HPLC analysis) in 91% yield (5.17g, 22.7 mmol) and 98% ee. The combined aqueous extracts were treated with solid K2CO3, extracted with 3×50 mL portions of CHCl3, dried over anhydrous Na2SO4 and concentrated in vacuo to afford a 91% recovery of (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one (1.23 g, 4.55 mmol) after silica gel chromatography. IR (film) 3411, 3329, 3064, 3031, 2974, 2938, 2879, 2836, 1956, 1872, 1711, 1523, 1455, 1409, 1376, 1331, 1278, 1236, 1164, 1120, 1060, 1028, 988.9, 973.1, 775.6, 736.0, 697.9 cm−1; 1H NMR (300 MHz, CDCl3) δ 7.33 (m, 5H, ArH), 5.82 (m, 1H, CH═CH), 5.70 (m, 1H, CH═CH), 5.04 (m, 3H, CH2Ph and NH), 4.63 (m, 1H, CHNH), 2.86 (ddd, J=10.2, 3.9, 3.9 Hz, 1H, CHCO), 2.70 (dq, J=18.0, 7.2 Hz, 1H, one of CH2CO), 2.43 (dq, J=17.7, 7.2 Hz, 1H, one of CH2CO), 2.10-1.65 (m, 4H, CH2CH2), 1.00 (dd, J=6.9, 6.9 Hz, 3H, CH3); 13C NMR (75 MHz, CDCl3) δ 212.0, 155.9, 136.6, 130.1, 128.7, 128.2, 128.1, 126.9, 67.0, 50.4, 46.9, 34.8, 24.2, 20.7, 8.0; HRMS (CI) exact mass calc'd for (C17H21NO3) requires m/z 287.1521, found m/z 287.1519. [α]D=+122.0 (c=1.0, CHCl3). Product ratios were determined by HPLC analysis (OD-H column, 3% ethanol in hexanes, 1 mL/min, 254 nm); (1S, 6R) endo isomer tr=12.5 min, and (1R, 6S) endo isomer tr=11.3 min, exo isomers tr=8.6, 9.2 min.

reactant | perchloric acid | 5.0 mmol, 431 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | ethyl vinyl ketone | 25.0 mmol, 2.49 mL | C(=C)C(=O)CC | C5H8O
reactant | (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one | 5.0 mmol, 1.35 g | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C=1OC(=CC1)C)C)=O | C16H18N2O2
reactant | buta-1,3-dienyl-carbamic acid benzyl ester | 31.3 mmol, 4.47g | C(C1=CC=CC=C1)OC(NC=CC=C)=O | C12H13NO2
solvent | ethanol | 12.5 mL | C(C)O | C2H6O
solvent | ether | 150 mL | CCOCC | C4H10O
product | Benzyl (1S, 6R)-6-propionylcyclohex-2-en-1-ylcarbamate | 91% yield | C(CC)(=O)[C@@H]1CCC=C[C@@H]1NC(OCC1=CC=CC=C1)=O | C17H21NO3
